US05175157
2-[(N-(2-(5-Methyl-6-methoxy-naphth-2-yl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline
Prepared from 2-[(hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 2-(2-bromoethyl)-5-methyl-6-methoxy-naphthalene analogously to Example 1.

reactant | 2-[(hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C18H26N2O3
reactant | 2-(2-bromoethyl)-5-methyl-6-methoxy-naphthalene | BrCCC1=CC2=CC=C(C(=C2C=C1)C)OC | C14H15BrO
product | 2-[(N-(2-(5-Methyl-6-methoxy-naphth-2-yl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CC1=C2C=CC(=CC2=CC=C1OC)CCN1CC(CCCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C32H40N2O4
